US04593102
2-[[(4-Chlorophenyl)sulfonyl]methyl]piperidine monohydrochloride
A mixture of 45.1 g (0.109 mole) of 2-[[(4-chlorophenyl)sulfonyl]methyl]-1-phenylsulfonylpiperidine and 200 ml of phenol in 200 ml of 48% hydrobromic acid was refluxed for 1 hr. The reaction mixture was quenched in water and 50% sodium hydroxide was added until the solution was basic (pH<10). The mixture was extracted with methylene chloride. The methylene chloride phase was separated, extracted with dilute aqueous sodium hydroxide followed by several portions of dilute sulfuric acid. The acidic phase was separated, basified with solid sodium carbonate and extracted with methylene chloride. This methylene chloride solution was dried over sodium sulfate and evaporated to remove solvent in vacuo to give an oil, the free base of the title compound. The free base was dissolved in methanol and converted to the hydrochloride salt with ethereal hydrogen chloride and the salt was recrystallized from methanol-diethyl ether to give 22.82 g (67.5%) white crystalline solid, m.p. 223.5°-224.5° C.

reactant | 2-[[(4-chlorophenyl)sulfonyl]methyl]-1-phenylsulfonylpiperidine | 0.109 mole, 45.1 g | ClC1=CC=C(C=C1)S(=O)(=O)CC1N(CCCC1)S(=O)(=O)C1=CC=CC=C1 | C18H20ClNO4S2
reactant | phenol | 200 ml | C1(=CC=CC=C1)O | C6H6O
solvent | hydrobromic acid | 200 ml | Br | BrH
product | 2-[[(4-Chlorophenyl)sulfonyl]methyl]piperidine monohydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)(=O)CC1NCCCC1 | InChI=1S/C12H16ClNO2S.ClH/c13-10-4-6-12(7-5-10)17(15,16)9-11-3-1-2-8-14-11;/h4-7,11,14H,1-3,8-9H2;1H
